US06747028B1
A mixture of 3-(benzyloxy)-6-methyl-2-pyridinemethanol (0.0314 mol) and MnO2 (29.52 g) in CH2Cl2 (100 ml) was stirred at room temperature overnight and then purified over silica gel on a glass filter (eluent: CH2C12 100%). The pure fractions were collected and the solvent was evaporated, yielding 6.71 g of 6-methyl-3-(phenyl-methoxy)-2-pyridinecarboxaldehyde (94%) (interm. 6).

reactant | 3-(benzyloxy)-6-methyl-2-pyridinemethanol | 0.0314 mol | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)C)CO | C14H15NO2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 29.52 g | O=[Mn]=O
product | 6-methyl-3-(phenyl-methoxy)-2-pyridinecarboxaldehyde | 6.71 g, 94% | CC1=CC=C(C(=N1)C=O)OCC1=CC=CC=C1 | C14H13NO2
